US04933345
6-Benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde
15 ml of chlorotrimethylsilane and 48 ml of triethylamine are added to a suspension of 24.3 g (60 mmol) of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester in 250 ml of dry toluene. The reaction mixture is heated for one hour to 50° C. and then concentrated to half its volume. Thereafter the reaction mixture is cooled to -78° C. and, under nitrogen, 100 ml of DIBAL-H* (1-molar solution in toluene) is added within one-half hour; the mixture is stirred for another half hour at -78° C. Then the mixture is combined with 10 ml of ethanol and heated to room temperature; 200 ml of 0.5-molar sodium hydroxide solution and 200 ml of ethanol are added, and the mixture is stirred overnight. The precipitate is filtered off, washed with water, dried, and utilized in the subsequent reaction step without further purification.

reactant | chlorotrimethylsilane | 15 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 48 ml | C(C)N(CC)CC | C6H15N
reactant | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 60 mmol, 24.3 g | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C24H24N2O4
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C=O)COC | C21H18N2O3
